US07915267B2
N-[(3-aminophenyl)methyl]-6-cyano-4-oxo-3,4-dihydroquinazoline-2-carboxamide
A suspension of ethyl 6-cyano-4-oxo-3,4-dihydroquinazoline-2-carboxylate obtained in Reference Example 51 (1.00 g, 4.11 mmol) and 3-(aminomethyl)aniline (0.753 g, 6.17 mmol) in THF (15 mL) was stirred at 80° C. for 15 hr. The reaction mixture was cooled to room temperature, IPE was added, and the insoluble material was filtered off. The filtrate was concentrated under reduced pressure, and the obtained crude crystals were recrystallized from ethyl acetate-IPE to give the title compound as a white powder (899 mg, 69%).

reactant | ethyl 6-cyano-4-oxo-3,4-dihydroquinazoline-2-carboxylate | C(#N)C=1C=C2C(NC(=NC2=CC1)C(=O)OCC)=O | C12H9N3O3
reactant | 3-(aminomethyl)aniline | 6.17 mmol, 0.753 g | NCC=1C=C(N)C=CC1 | C7H10N2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | N-[(3-aminophenyl)methyl]-6-cyano-4-oxo-3,4-dihydroquinazoline-2-carboxamide | 899 mg, 69% | NC=1C=C(C=CC1)CNC(=O)C1=NC2=CC=C(C=C2C(N1)=O)C#N | C17H13N5O2
